US07906528B2
A mixture of allyl-(4,6-dibromo-2-chloro-5-methyl-pyridin-3-yl)-amine (5.0 g, 14.7 mmol), Pd(OAc)2 (0.33 g, 1.47 mmol), tetrabutylammonium bromide (5.2 g, 16.2 mmol), K2CO3 (6.1 g, 44 mmol) in DMF (50 mL) is degassed, then stirred at 80° C. overnight. The mixture is diluted with EtOAc and washed with water and brine, dried over MgSO4 and concentrated. Chromatography of the residue on silica gel (Hexane/EtOAc, 4:1) gives 3.2 g of 5-bromo-7-chloro-3,4-dimethyl-1H-pyrrolo[2,3-c]pyridine. 1H NMR: (CDCl3) 8.32 (1H, br), 7.14 (1H, q, J=1.1 Hz), 2.70 (3H, s), 2.46 (3H, d, J=1.1 Hz).

reactant | allyl-(4,6-dibromo-2-chloro-5-methyl-pyridin-3-yl)-amine | 14.7 mmol, 5.0 g | C(C=C)NC=1C(=NC(=C(C1Br)C)Br)Cl | C9H9Br2ClN2
reactant | K2CO3 | 44 mmol, 6.1 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrabutylammonium bromide | 16.2 mmol, 5.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 1.47 mmol, 0.33 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-bromo-7-chloro-3,4-dimethyl-1H-pyrrolo[2,3-c]pyridine | 3.2 g | BrC=1C(=C2C(=C(N1)Cl)NC=C2C)C | C9H8BrClN2
